US08013008B2
benzyl (2S,3S)-2,3-diethyl-3-hydroxypyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (8.58 g), 3 mol/L ethylmagnesium bromide—diethyl ether solution (9.6 mL) and benzyl (2S)-2-ethyl-3-oxopyrrolidine-1-carboxylate (2.37 g), the title compound was obtained as colorless oil (yield: 2.19 g, yield: 82%).

reactant | cerium chloride | 8.58 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ethylmagnesium bromide diethyl ether | 3 mol/L, 9.6 mL | C(C)[Mg]Br.C(C)OCC
reactant | benzyl (2S)-2-ethyl-3-oxopyrrolidine-1-carboxylate | 2.37 g | C(C)[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H17NO3
product | benzyl (2S,3S)-2,3-diethyl-3-hydroxypyrrolidine-1-carboxylate | C(C)[C@@H]1N(CC[C@@]1(O)CC)C(=O)OCC1=CC=CC=C1 | C16H23NO3
